US04801705
(A) 1-Chloro-2-[[[(3,4-dimethoxyphenyl)amino]carbonyl]amino]ethane
To a solution of 51.9 g (0.34 mol) of 3,4-dimethoxyaniline in 500 ml of ethyl acetate was added dropwise a solution of 35.8 g (0.34 mol) of 2-chloroethylisocyanate in 100 ml of ethyl acetate. The reaction mixture was stirred for one hour at ambient temperature and the precipitate filtered off by suction (crop 1). The filtrate was evaporated to dryness and the resulting residue washed with ether (crop 2). The two crops were combined and dried in vacuo; yield: 83.7 g, melting point 117° C.

reactant | 3,4-dimethoxyaniline | 0.34 mol, 51.9 g | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | 2-chloroethylisocyanate | 0.34 mol, 35.8 g | ClCCN=C=O | C3H4ClNO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-Chloro-2-[[[(3,4-dimethoxyphenyl)amino]carbonyl]amino]ethane | ClCCNC(=O)NC1=CC(=C(C=C1)OC)OC | C11H15ClN2O3
